US06670367B1
2-Hydroxy-3-(2-(3,4-dimethoxyphenyl)ethoxy)-3,3-di(4-ethylphenyl)propionic Acid
9.2 g (19.3 mmol) of methyl 2-hydroxy-3-(2-(3,4-dimethoxyphenyl)ethoxy)-3,3-di(4-ethylphenyl)propionate were dissolved in 26 ml of dioxane, and 13 ml of 3 N NaOH solution were added. The mixture was stirred at 60° C. for 3 hours. Water was added to the mixture, and the aqueous phase was extracted twice with ether. The aqueous phase was acidified with 1 N aqueous HCl and extracted with ether, the organic phase was dried over magnesium sulfate, and the solvent was distilled off. 6.5 g (71%) of a yellowish oil were isolated and were immediately reacted further.

reactant | methyl 2-hydroxy-3-(2-(3,4-dimethoxyphenyl)ethoxy)-3,3-di(4-ethylphenyl)propionate | 19.3 mmol, 9.2 g | OC(C(=O)OC)C(C1=CC=C(C=C1)CC)(C1=CC=C(C=C1)CC)OCCC1=CC(=C(C=C1)OC)OC | C30H36O6
reactant | NaOH | 3 N, 13 ml | [OH-].[Na+]
reactant | Water | O | H2O
solvent | dioxane | 26 ml | O1CCOCC1 | C4H8O2
product | 2-Hydroxy-3-(2-(3,4-dimethoxyphenyl)ethoxy)-3,3-di(4-ethylphenyl)propionic Acid | 6.5 g, 71% | OC(C(=O)O)C(C1=CC=C(C=C1)CC)(C1=CC=C(C=C1)CC)OCCC1=CC(=C(C=C1)OC)OC | C29H34O6
